US04463079
A mixture composed of 130 g (1 mol) of ethyl acetoacetate, 99 g (1 mol) of methyl cyanoacetate, 146 g (2 mol) of sec-butylamine and 300 ml of methanol was heated in an autoclave at 100° to 110° C. for 10 hours. After cooling, the reaction solution was neutralized with diluted hydrochloride to obtain white crystals of 1-sec-butyl-3-cyano-6-hydroxy-4-methyl-2-pyridone.

reactant | ethyl acetoacetate | 1 mol, 130 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | methyl cyanoacetate | 1 mol, 99 g | C(#N)CC(=O)OC | C4H5NO2
reactant | sec-butylamine | 2 mol, 146 g | C(C)(CC)N | C4H11N
reactant | hydrochloride | Cl | ClH
solvent | methanol | 300 ml | CO | CH4O
product | 1-sec-butyl-3-cyano-6-hydroxy-4-methyl-2-pyridone | C(C)(CC)N1C(C(=C(C=C1O)C)C#N)=O | C11H14N2O2
